US08383932B2
Synthesis of 2-(2-bromopyridin-3-yl)benzo[d]thiazole
6.58 g (34.0 mmol) of 2-bromo-3-pyrdinecarboxaldehyde and 5.5 mL (50.9 mmol) of 2-aminothiophenol were dissolved in 150 mL of acetic acid. The solution was agitated at room temperature for 30 minutes. Next, 19.0 g (40.8 mmol) of lead (IV) acetate was added thereto. The resulting product was agitated at 50° C. for 1 hour. Then, water was added to the acquired reactant. The mixture was extracted with ethyl acetate and treated under reduced pressure to remove the solvent, obtaining 5.55 g (Y=55%) of a white solid.

reactant | 2-bromo-3-pyrdinecarboxaldehyde | 34.0 mmol, 6.58 g | BrC1=NC=CC=C1C=O | C6H4BrNO
reactant | 2-aminothiophenol | 50.9 mmol, 5.5 mL | NC1=C(C=CC=C1)S | C6H7NS
reactant | lead (IV) acetate | 40.8 mmol, 19.0 g | C(C)(=O)[O-].[Pb+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
reactant | water | O | H2O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 2-(2-bromopyridin-3-yl)benzo[d]thiazole | BrC1=NC=CC=C1C=1SC2=C(N1)C=CC=C2 | C12H7BrN2S
